US08729105B2
Preparation of 5-(4-chloro-phenyl)-6-(tetrahydro-furan-3-ylmethoxy)-nicotinic acid
The title compound was synthesized in analogy to Example CI using 6-chloro-5-(4-chlorophenyl)-3-pyridine carboxylic acid (CAN 1012792-56-1) and tetrahydro-3-furanmethanol (CAN 15833-61-1) as starting materials; LC-MS (UV peak area/ESI) 91.6%, 334.0833 (M+H)+.

reactant | 6-chloro-5-(4-chlorophenyl)-3-pyridine carboxylic acid | ClC1=C(C=C(C=N1)C(=O)O)C1=CC=C(C=C1)Cl | C12H7Cl2NO2
reactant | tetrahydro-3-furanmethanol | O1CC(CC1)CO | C5H10O2
product | 5-(4-chloro-phenyl)-6-(tetrahydro-furan-3-ylmethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC1COCC1 | C17H16ClNO4
